.subckt PLL a b c theta
V1 N002 0 0
XU3 N001 N004 N003 adder
V2 N001 0 50
XU4 N003 theta integral
XU2 N002 N005 N004 PIcontrol Kp=10 Ki=50000
XU1 a b c P001 P002 P003 clarke
XU5 P001 P002 P003 theta N005 alphabetadq
.lib adder.lib
.lib alphabeta-dq.lib
.lib clarke.lib
.lib integral.lib
.lib PI.lib
.ends PLL
