.subckt clarke a b c alpha beta zero
B1 alpha 0 V=(2/3)*V(a)-(1/3)*V(b)-(1/3)*V(c)
B2 beta 0 V=(1/3)*sqrt(3)*V(b)-(1/3)*sqrt(3)*V(c)
B3 zero 0 V=(1/3)*(V(a)+V(b)+V(c))
.ends clarke
