.subckt park a b c theta d q zero
B1 d 0 V=(2/3)*(cos(V(theta))*V(a)+cos(V(theta)-shift)*V(b)+cos(V(theta)+shift)*V(c))
B2 q 0 V=(2/3)*(-sin(V(theta))*V(a)-sin(V(theta)-shift)*V(b)-sin(V(theta)+shift)*V(c))
B3 zero 0 V=(1/3)*(V(a)+V(b)+V(c))
.param pi=3.14159265359
.param shift=(2*pi/3)
.ends park

